* C:\Users\Golde\Documents\Cooper\ECE393\ECE393\Project2.asc
Q1 N002 N004 N005 0 2N2222
R1 N001 N002 7k
R2 N001 N004 90k
R4 N004 0 5k
C1 N005 0 1µ
V1 N001 0 15
C6 NC_01 N002 1µ
R3 N005 0 100
C3 N002 0 100p
C4 0 N003 1n
L1 N002 N003 10µ
C2 N004 N003 50µ
.model NPN NPN
.model PNP PNP
.lib C:\Users\Golde\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 100u
.backanno
.end
