* E:\Cooper\Junior_Fall\ECE393\ECE393\projectbetter.asc
Q1 N002 N006 N007 0 2N2222
R1 N001 N002 8k
R2 N001 N006 90k
R4 N006 0 5k
C1 N007 0 100n
C2 N006 N005 100n
C3 N005 N004 1n
C4 N004 N003 1n
C5 N003 N002 1n
R5 N003 0 2k
R6 N004 0 2k
R7 N005 0 2k
V1 N001 0 15
C6 NC_01 N002 1µ
R3 N007 0 100
.model NPN NPN
.model PNP PNP
.lib C:\Users\Halil\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 10m
.backanno
.end
